US08536168B2
6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid
6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid ethyl ester (188 mg, 0.4 mmol), Lithium hydroxide (96 mg, 4.0 mmol), THF (750 μL), MeOH (750 μL), and H2O (400 μL) are combined at room temperature and stirred 16 h. Adjust pH to between three and four with 1N HCl. Extract with CH2Cl2/EtOH 4:1 and combined organics are washed with brine. Concentrate in vacuo to yield the title compound without further purification (165 mg, 93%).

reactant | 6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid ethyl ester | 0.4 mmol, 188 mg | C(C)OC(C1=CN=C(C=C1)N1CCN(CC1)C1=NN=C(C2=CC=CC=C12)CC1=CC=C(C=C1)F)=O | C27H26FN5O2
reactant | Lithium hydroxide | 4.0 mmol, 96 mg | [OH-].[Li+]
reactant | THF | 750 μL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 400 μL | O | H2O
solvent | MeOH | 750 μL | CO | CH4O
product | 6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid | FC1=CC=C(CC2=NN=C(C3=CC=CC=C23)N2CCN(CC2)C2=NC=C(C(=O)O)C=C2)C=C1 | C25H22FN5O2
